US07064144B2
To a solution of 5-(benzyloxy)-1-methyl-2-(2-phenylethenyl)-1H-indole (204 mg, 0.601 mmol) in EtOH (5 ml) and THF (5 ml) was added 10% palladium on carbon (50 mg). The resulting mixture was stirred under hydrogen (2 atm) for 15 h at room temperature. The mixture was filtered through Celite and washed with EtOH. The filtrate was concentrated in vacuo and then the residue was purified by silica gel (4.5 g) chromatography eluted with chloroform to give 1-methyl-2-(2-phenylethyl)-1H-indol-5-ol (110 mg, 72.8%).

reactant | 5-(benzyloxy)-1-methyl-2-(2-phenylethenyl)-1H-indole | 0.601 mmol, 204 mg | C(C1=CC=CC=C1)OC=1C=C2C=C(N(C2=CC1)C)C=CC1=CC=CC=C1 | C24H21NO
solvent | EtOH | 5 ml | CCO | C2H6O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
product | 1-methyl-2-(2-phenylethyl)-1H-indol-5-ol | 110 mg, 72.8% | CN1C(=CC2=CC(=CC=C12)O)CCC1=CC=CC=C1 | C17H17NO
